US05071999
c) Ethyl 5-chloro-2-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate
10.3 g (50mmol) of ethyl N-(2-chloroallyl)-N-(2-oxoethyl)-carbamate are heated under reflux overnight with 4.5 g (50 mmol) of sarcosine in 200 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-(2-chloroallyl)-N-(2-oxoethyl)-carbamate | 50mmol, 10.3 g | ClC(CN(C(OCC)=O)CC=O)=C | C8H12ClNO3
reactant | sarcosine | 50 mmol, 4.5 g | N(C)CC(=O)O | C3H7NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-chloro-2-methyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate | ClC12CCN(C2CN(C1)C(=O)OCC)C | C10H17ClN2O2
